US07030267B2
To a solution of 1-cyano-2-(1-ethyl-propyl)-cyclopropanecarboxylic acid benzyl ester (1.76 g, 6.5 mmol) in 25 mL THF was added 20% Pd/C (0.2 g). The mixture was hydrogenated in a Parr shaker at 48 psi for 3 hours. 1H NMR analysis indicated the benzyl ester had been completely cleaved. The mixture was filtered and concentrated hydrochloric acid (2 g) was added along with PtO2 (0.42 g) and the mixture was hydrogenated for an additional 16 hours until the nitrile was reduced. The mixture was filtered and concentrated. Flash chromatography of the residue on silica gel (0.25:1.25:3.5 conc. NH4OH (aq):MeOH:CH2Cl2), followed by ion-exchange chromatography on a DOWEX-50WX8-100 resin provided 0.13 g (11%) of 1-aminomethyl-2-(1-ethyl-propyl)-cyclopropanecarboxylic acid as a colorless solid, mp 255–257° C.: 1H NMR (D2O) δ 3.53 (d, J=13.2 Hz, 1H), 2.50 (d, J=13.2 Hz, 1H), 1.30 (m, 3H), 1.08–1.23 (m, 4H), 0.74 (t, J=7.6 Hz, 3H), 0.65 (t, J=7.6 Hz, 3H), 0.54 (m, 1H). LRMS: m/z 184.1 (M−1). Anal. Calcd for C10H19NO2: C, 64.83; H, 10.34; N, 7.56. Found: C, 64.84; H, 10.69; N, 7.44.

reactant | 1-cyano-2-(1-ethyl-propyl)-cyclopropanecarboxylic acid benzyl ester | 6.5 mmol, 1.76 g | C(C1=CC=CC=C1)OC(=O)C1(C(C1)C(CC)CC)C#N | C17H21NO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 1-aminomethyl-2-(1-ethyl-propyl)-cyclopropanecarboxylic acid | 0.13 g, 11% | NCC1(C(C1)C(CC)CC)C(=O)O | C10H19NO2
